US07173033B2
A mixture of 3-[6-(piperidin-1-yl)-1,2,4-triazolo[4,3-b]pyridazine-3-yl]aniline (180 mg) and acetic anhydride (3 ml) was stirred at room temperature for 6 hours. The reaction solution was concentrated under reduced pressure, and the resultant crude crystals were washed with diethyl ether to obtain 3′-[6-(piperidin-1-yl)-1,2,4-triazolo[4,3-b]pyridazin-3-yl]acetoanilide (190 mg) as colorless crystals.

reactant | 3-[6-(piperidin-1-yl)-1,2,4-triazolo[4,3-b]pyridazine-3-yl]aniline | 180 mg | N1(CCCCC1)C=1C=CC=2N(N1)C(=NN2)C=2C=C(N)C=CC2 | C16H18N6
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3′-[6-(piperidin-1-yl)-1,2,4-triazolo[4,3-b]pyridazin-3-yl]acetoanilide | 190 mg | N1(CCCCC1)C=1C=CC=2N(N1)C(=NN2)C=2C=C(NC(C)=O)C=CC2 | C18H20N6O
